### PR TITLE
[Merged by Bors] - feat(Data/Nat/Prime): add 2 theorems

### PR DESCRIPTION
**Pull request by casavaca**
---

We have 2 `exists_dvd_of_not_prime`, but not the other way round. I found these 2 theorems useful when proving a number is not a prime number.

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

**Comment by BoltonBailey** [comment]
Seems useful! Could you turn it into an iff lemma so that it can be used with `rw`?

**Comment by casavaca** [comment]
Sure. I added 2 `iff` lemmas.

**Review by Shreyas4991 — COMMENTED** [review]
The lemmas and proofs seem fine to me. I  believe it is worth asking an expert maintainer or someone who is familiar with `simp`'s inner workings, whether the `iff` lemmas ought to be simp lemmas.

**Review by BoltonBailey — APPROVED** [review]

File: Mathlib/Data/Nat/Prime.lean [hunk 1]
```diff
@@ -455,6 +455,29 @@ theorem exists_dvd_of_not_prime2 {n : ℕ} (n2 : 2 ≤ n) (np : ¬Prime n) :
     (not_prime_iff_minFac_lt n2).1 np⟩
 #align nat.exists_dvd_of_not_prime2 Nat.exists_dvd_of_not_prime2
 
+theorem not_prime_of_dvd (n2 : 2 ≤ n) : (∃ m, m ∣ n ∧ m ≠ 1 ∧ m ≠ n) → ¬Prime n := by
```
Comment (tb65536) [inline Mathlib/Data/Nat/Prime.lean:458]: Can you move the hypothesis left of the colon?

File: Mathlib/Data/Nat/Prime.lean [hunk 2]
```diff
@@ -455,6 +455,29 @@ theorem exists_dvd_of_not_prime2 {n : ℕ} (n2 : 2 ≤ n) (np : ¬Prime n) :
...
+  match m with
+  | 0 => refine False.elim (hneq (Nat.zero_dvd.mp dvd).symm)
+  | 1 => contradiction
+  | m + 2 => simp only [le_add_iff_nonneg_left, _root_.zero_le]
+
+theorem not_prime_of_dvd2 (n2 : 2 ≤ n) : (∃ m, m ∣ n ∧ 2 ≤ m ∧ m < n) → ¬Prime n := by
+  intro ⟨m, dvd, hm2, hm⟩
+  refine' not_prime_of_dvd n2 ⟨m, ⟨dvd, ⟨_, _⟩⟩⟩
+  · exact ne_of_gt (lt_of_succ_le hm2)
+  · exact ne_of_lt hm
```
Comment (tb65536) [inline Mathlib/Data/Nat/Prime.lean:473]: Here's a golf:
```suggestion
theorem not_prime_of_dvd (h : ∃ m, m ∣ n ∧ m ≠ 1 ∧ m ≠ n) : ¬Prime n := by
  contrapose! h
  simp only [← or_iff_not_imp_left]
  exact h.eq_one_or_self_of_dvd

theorem not_prime_of_dvd2 (h : ∃ m, m ∣ n ∧ 2 ≤ m ∧ m < n) : ¬Prime n := by
  obtain ⟨m, dvd, hm2, hm⟩ := h
  exact not_prime_of_dvd ⟨m, dvd, ne_of_gt hm2, ne_of_lt hm⟩
```

**Review by Shreyas4991 — APPROVED** [review]

File: Mathlib/Data/Nat/Prime.lean [hunk 3]
```diff
@@ -455,6 +455,21 @@ theorem exists_dvd_of_not_prime2 {n : ℕ} (n2 : 2 ≤ n) (np : ¬Prime n) :
...
+  contrapose! h
+  simp only [← or_iff_not_imp_left]
+  exact h.eq_one_or_self_of_dvd
+
+theorem not_prime_of_dvd2 (h : ∃ m, m ∣ n ∧ 2 ≤ m ∧ m < n) : ¬Prime n := by
+  obtain ⟨m, dvd, hm2, hm⟩ := h
+  exact not_prime_of_dvd ⟨m, dvd, ne_of_gt hm2, ne_of_lt hm⟩
+
+theorem exists_dvd_iff_not_prime {n : ℕ} (n2 : 2 ≤ n) : (¬Prime n) ↔ ∃ m, m ∣ n ∧ m ≠ 1 ∧ m ≠ n :=
+  ⟨exists_dvd_of_not_prime n2, not_prime_of_dvd n2⟩
```
Comment (tb65536) [inline Mathlib/Data/Nat/Prime.lean:468]:
```suggestion
  ⟨exists_dvd_of_not_prime n2, not_prime_of_dvd⟩
```

File: Mathlib/Data/Nat/Prime.lean [hunk 4]
```diff
@@ -455,6 +455,21 @@ theorem exists_dvd_of_not_prime2 {n : ℕ} (n2 : 2 ≤ n) (np : ¬Prime n) :
...
+
+theorem exists_dvd_iff_not_prime2 {n : ℕ} (n2 : 2 ≤ n) : (¬Prime n) ↔ ∃ m, m ∣ n ∧ 2 ≤ m ∧ m < n :=
+  ⟨exists_dvd_of_not_prime2 n2, not_prime_of_dvd2 n2⟩
```
Comment (tb65536) [inline Mathlib/Data/Nat/Prime.lean:471]:
```suggestion
  ⟨exists_dvd_of_not_prime2 n2, not_prime_of_dvd2⟩
```

**Comment by casavaca** [comment]
Rebased

File: Mathlib/Data/Nat/Prime.lean [hunk 5]
```diff
@@ -455,6 +455,21 @@ theorem exists_dvd_of_not_prime2 {n : ℕ} (n2 : 2 ≤ n) (np : ¬Prime n) :
     (not_prime_iff_minFac_lt n2).1 np⟩
 #align nat.exists_dvd_of_not_prime2 Nat.exists_dvd_of_not_prime2
 
+theorem not_prime_of_dvd (h : ∃ m, m ∣ n ∧ m ≠ 1 ∧ m ≠ n) : ¬Prime n := by
```
Comment (semorrison) [inline Mathlib/Data/Nat/Prime.lean:458]: Usually we would not package up all these hypotheses as an existential. It should just be `{m n} (h1 : m ∣ n) (h2 : ...) (h3 : ...)`.

**Comment by semorrison** [comment]
> whether the `iff` lemmas ought to be simp lemmas.

No.

**Comment by semorrison** [comment]
I don't like the naming. Just adding a `2` is not very helpful. What about `not_prime_of_dvd_of_le_of_lt`, etc?

**Comment by semorrison** [comment]
(Doesn't need `new-feature` or `RFC` labels for a standard PR adding theorems.)

File: Mathlib/Data/Nat/Prime.lean (hunk 4 above)
Comment (semorrison) [reply Mathlib/Data/Nat/Prime.lean]: Please resolve old conversations: it makes it easier for later reviewers.

File: Mathlib/Data/Nat/Prime.lean [hunk 6]
```diff
@@ -455,6 +455,21 @@ theorem exists_dvd_of_not_prime2 {n : ℕ} (n2 : 2 ≤ n) (np : ¬Prime n) :
...
+  contrapose! h
+  simp only [← or_iff_not_imp_left]
+  exact h.eq_one_or_self_of_dvd
+
+theorem not_prime_of_dvd2 (h : ∃ m, m ∣ n ∧ 2 ≤ m ∧ m < n) : ¬Prime n := by
```
Comment (tb65536) [inline Mathlib/Data/Nat/Prime.lean:463]: I feel like `1 < m` is more natural than `2 ≤ m` (this would need to be changed on all the lemmas, including the original two).

Comment (casavaca) [reply Mathlib/Data/Nat/Prime.lean]: Would like to hear other's opinion. When I wrote this, there's already `theorem exists_dvd_of_not_prime2 {n : ℕ} (n2 : 2 ≤ n) (np : ¬Prime n) : ...`. I'm just mirroring existing code.

**Comment by casavaca** [comment]
I updated the name to be `theorem not_prime_of_dvd_of_ne {m n : ℕ} (h1 : m ∣ n) (h2 : m ≠ 1) (h3 : m ≠ n) : ¬Prime n :=`. compared to `not_prime_of_dvd_of_ne_of_ne`, the `(h2 : m ≠ 1)` is not in the name. When we think about it, or when we explain to others, we tend to omit the trivial `m = 1` case. So, I also omitted in the name. I just feel it's more natural, but I'm totally OK if we want to stick to the name `not_prime_of_dvd_of_ne_of_ne` and similarly `not_prime_of_dvd_of_le_of_lt` for. (2<=m && m < n)

File: Mathlib/Data/Nat/Prime.lean [hunk 7]
```diff
@@ -455,6 +455,18 @@ theorem exists_dvd_of_not_prime2 {n : ℕ} (n2 : 2 ≤ n) (np : ¬Prime n) :
     (not_prime_iff_minFac_lt n2).1 np⟩
 #align nat.exists_dvd_of_not_prime2 Nat.exists_dvd_of_not_prime2
 
+theorem not_prime_of_dvd_of_ne {m n : ℕ} (h1 : m ∣ n) (h2 : m ≠ 1) (h3 : m ≠ n) : ¬Prime n :=
+  fun h => Or.elim (h.eq_one_or_self_of_dvd m h1) h2 h3
+
+theorem not_prime_of_dvd_of_lt {m n : ℕ} (h1 : m ∣ n) (h2 : 2 ≤ m) (h3 : m < n) : ¬Prime n :=
+  not_prime_of_dvd_of_ne h1 (ne_of_gt h2) (ne_of_lt h3)
+
+theorem exists_dvd_ne_iff_not_prime {n : ℕ} (h : 2 ≤ n) : (¬Prime n) ↔ ∃ m, m ∣ n ∧ m ≠ 1 ∧ m ≠ n :=
```
Comment (tb65536) [inline Mathlib/Data/Nat/Prime.lean:464]: You should either swap the theorem name or swap the if and only if, because right now they don't match.

File: Mathlib/Data/Nat/Prime.lean [hunk 8]
```diff
@@ -455,6 +455,18 @@ theorem exists_dvd_of_not_prime2 {n : ℕ} (n2 : 2 ≤ n) (np : ¬Prime n) :
...
+  ⟨exists_dvd_of_not_prime h, fun ⟨_,h1,h2,h3⟩ => not_prime_of_dvd_of_ne h1 h2 h3⟩
+
+theorem exists_dvd_lt_iff_not_prime {n : ℕ} (h : 2 ≤ n) : (¬Prime n) ↔ ∃ m, m ∣ n ∧ 2 ≤ m ∧ m < n :=
+  ⟨exists_dvd_of_not_prime2 h, fun ⟨_,h1,h2,h3⟩ => not_prime_of_dvd_of_lt h1 h2 h3⟩
```
Comment (tb65536) [inline Mathlib/Data/Nat/Prime.lean:468]: Could you also rename `exists_dvd_of_not_prime2`?

File: Mathlib/Data/Nat/Prime.lean (hunk 7 above)
Comment (casavaca) [reply Mathlib/Data/Nat/Prime.lean:464]: Got it. I'll do it.

File: Mathlib/Data/Nat/Prime.lean (hunk 8 above)
Comment (casavaca) [reply Mathlib/Data/Nat/Prime.lean:468]: It's something we ported from Mathlib3. I have no objection but I'm not sure if we should do this. @semorrison

File: Mathlib/Data/Nat/Prime.lean (hunk 5 above)
Comment (casavaca) [reply Mathlib/Data/Nat/Prime.lean]: Done.

File: Mathlib/Data/Nat/Prime.lean [hunk 9]
```diff
@@ -455,6 +455,18 @@ theorem exists_dvd_of_not_prime2 {n : ℕ} (n2 : 2 ≤ n) (np : ¬Prime n) :
...
 #align nat.exists_dvd_of_not_prime2 Nat.exists_dvd_of_not_prime2
 
+theorem not_prime_of_dvd_of_ne {m n : ℕ} (h1 : m ∣ n) (h2 : m ≠ 1) (h3 : m ≠ n) : ¬Prime n :=
+  fun h => Or.elim (h.eq_one_or_self_of_dvd m h1) h2 h3
+
+theorem not_prime_of_dvd_of_lt {m n : ℕ} (h1 : m ∣ n) (h2 : 2 ≤ m) (h3 : m < n) : ¬Prime n :=
+  not_prime_of_dvd_of_ne h1 (ne_of_gt h2) (ne_of_lt h3)
+
+theorem not_prime_iff_exists_dvd_ne {n : ℕ} (h : 2 ≤ n) : (¬Prime n) ↔ ∃ m, m ∣ n ∧ m ≠ 1 ∧ m ≠ n :=
+  ⟨exists_dvd_of_not_prime h, fun ⟨_,h1,h2,h3⟩ => not_prime_of_dvd_of_ne h1 h2 h3⟩
```
Comment (adomani) [inline Mathlib/Data/Nat/Prime.lean:465]:
```suggestion
  ⟨exists_dvd_of_not_prime h, fun ⟨_, h1, h2, h3⟩ => not_prime_of_dvd_of_ne h1 h2 h3⟩
```

File: Mathlib/Data/Nat/Prime.lean [hunk 10]
```diff
@@ -455,6 +455,18 @@ theorem exists_dvd_of_not_prime2 {n : ℕ} (n2 : 2 ≤ n) (np : ¬Prime n) :
...
+
+theorem not_prime_iff_exists_dvd_lt {n : ℕ} (h : 2 ≤ n) : (¬Prime n) ↔ ∃ m, m ∣ n ∧ 2 ≤ m ∧ m < n :=
+  ⟨exists_dvd_of_not_prime2 h, fun ⟨_,h1,h2,h3⟩ => not_prime_of_dvd_of_lt h1 h2 h3⟩
```
Comment (adomani) [inline Mathlib/Data/Nat/Prime.lean:468]:
```suggestion
  ⟨exists_dvd_of_not_prime2 h, fun ⟨_, h1, h2, h3⟩ => not_prime_of_dvd_of_lt h1 h2 h3⟩
```

**Review by adomani — COMMENTED** [review]
The spaces are probably more consistent with overall style.

I also agree that the `2` in the name is not great.

**Comment by jcommelin** [comment]
Let's merge this as is. Change names of existing material can be done in another PR.

bors merge
